US04032522
To a solution of 2-(p-aminophenyl)-4-trifluoromethylimidazole (3.0 g.) in acetone (50 ml.) and triethylamine (2.7 g.) is added methanesulfonyl chloride (1.5 g.). After refluxing for four hours, a second portion of methanesulfonyl chloride (1.5 g.) is added. Reflux is continued 20 hours, a third portion of methanesulfonyl chloride (1.5 g.) is added and reflux continued another four hours. The reaction mixture is filtered and concentrated to an oil which, upon trituration with water, affords a solid. After chromatography on silica gel and recrystallization from a mixture of acetonitrile and water 1.3 g. of 2-(p-methylsulfonamidophenyl)-4-trifluoromethylimidazole, m.p. 253°-255° C. is obtained.

reactant | 2-(p-aminophenyl)-4-trifluoromethylimidazole | 3.0 g | NC1=CC=C(C=C1)C=1NC=C(N1)C(F)(F)F | C10H8F3N3
reactant | triethylamine | 2.7 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 1.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 1.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(p-methylsulfonamidophenyl)-4-trifluoromethylimidazole | CS(=O)(=O)NC1=CC=C(C=C1)C=1NC=C(N1)C(F)(F)F | C11H10F3N3O2S
